US04130579
In a 500-ml flask, equipped as described in Example 4, was placed 250 ml of anhydrous THF and 7.00 ml of diisopropylamine (via syringe). The flask was cooled in a dry ice bath and, with stirring, 21.0 ml of 2.4 molar n-butyllithium in hexane was added via a syringe. The mixture was stirred for 1 hour and then 3.42 g of freshly distilled isobutyronitrile in 20 ml of THF was added in 20 minutes. After an additional hour of stirring, 8.50 g of 4,4'-bis(bromomethyl)biphenyl was added all at once. Stirring at -76° was continued for several hours and overnight as the cooling bath warmed to room temperature. After an additional day of stirring, the solvent was distilled on the water pump. The resulting semisolid residue was dissolved in 500 ml of chloroform and the chloroform solution was extracted 4 times with water (with HCl acidification during the first extraction). Drying the solution over anhydrous magnesium sulfate, filtering, and removal of the solvent in vacuo gave 6.8 g of crude 4,4'-bis(2-methyl-2-cyanopropyl)biphenyl melting at 174°-182°. After several recrystallizations from acetone, the product melted at 189.3°-190.8°.

reactant | diisopropylamine | 7.00 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.4 molar, 21.0 ml | C(CCC)[Li]
reactant | isobutyronitrile | C(C(C)C)#N | C4H7N
reactant | 4,4'-bis(bromomethyl)biphenyl | 8.50 g | BrCC1=CC=C(C=C1)C1=CC=C(C=C1)CBr | C14H12Br2
reactant | hexane | CCCCCC | C6H14
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 4,4'-bis(2-methyl-2-cyanopropyl)biphenyl | 6.8 g | CC(CC1=CC=C(C=C1)C1=CC=C(C=C1)CC(C)(C)C#N)(C)C#N | C22H24N2
